US07635715B2
A solution of the crude diethyl 2-(2-(4-bromophenyl)-2-methylpropanoyl)malonate (4982 mg, 12932 μmol) in concentrated H2SO4 (30 mL) was stirred at 23° C. After 2 hours, the reaction was poured into an ice-water mixture (200 mL) and extracted with EtOAc (3×200 mL). The combined organic layers were washed with brine (100 mL), dried over MgSO4, and concentrated in vacuo affording ethyl 6-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-carboxylate as the product.

reactant | diethyl 2-(2-(4-bromophenyl)-2-methylpropanoyl)malonate | 12932 μmol, 4982 mg | BrC1=CC=C(C=C1)C(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C | C17H21BrO5
solvent | H2SO4 | 30 mL | OS(=O)(=O)O | H2O4S
product | ethyl 6-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-carboxylate | BrC=1C=C2C(=C(C(C(C2=CC1)(C)C)=O)C(=O)OCC)O | C15H15BrO4
